US03984422
2.4 g. of 4-chloro-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester is refluxed with 20 ml. of diethylamine for 24 hours. The excess diethylamine is removed by distillation and the residue treated with 20 ml. of water. 4-Diethylamino-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester precipitates and is recrystallized from ethyl acetate. Yield 2.1 g. (76%), m.p. 85°-88°. Hydrolysis of this product with aqueous sodium hydroxide yields 4-diethylamino-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid.

reactant | 4-chloro-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(C(=NC1)Cl)C(=NN2)C | C10H10ClN3O2
reactant | diethylamine | C(C)NCC | C4H11N
product | 4-diethylamino-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid | C(C)N(C1=NC=C(C2=C1C(=NN2)C)C(=O)O)CC | C12H16N4O2
